US07951805B2
SYNTHESIS OF 4-(2-TRIFLUOROMETHYLPHENOXY)PIPERIDINE
To a stirred solution of 4-(2-trifluoromethylphenoxy)piperidine-1-carboxylic acid tert-butyl ester (1.413 g, 4.000 mmol) in dichloromethane (40.0 mL) was added trifluoroacetic acid (6.0 mL, 80.00 mmol). The resulting mixture was stirred at ambient temperature for 24 hours and then quenched with a saturated aqueous solution of Na2CO3 (10.0 mL). The organic phase was washed with water (20.0 mL), brine (20.0 mL), dried over MgSO4 and then concentrated in vacuo. The obtained crude product was used without further purification.

reactant | 4-(2-trifluoromethylphenoxy)piperidine-1-carboxylic acid tert-butyl ester | 4.000 mmol, 1.413 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C17H22F3NO3
reactant | trifluoroacetic acid | 80.00 mmol, 6.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40.0 mL | ClCCl | CH2Cl2
product | 4-(2-TRIFLUOROMETHYLPHENOXY)PIPERIDINE | FC(C1=C(OC2CCNCC2)C=CC=C1)(F)F | C12H14F3NO
